US04711903
2,6-bis(1,1-dimethylethyl)-4-mercaptophenol
3,5-bis(1,1-Dimethylethyl)-4-hydroxyphenyl thiocyanate (55 g, 0.209 mole) was dissolved in acetone (200 ml) under an argon atmosphere. Water (7.6 g, 0.42 mole) was added and the reaction cooled to 0° C. Triethylphosphine (24.7 g, 0.209 mole) was added dropwise over a period of 1 hour and the reaction was then allowed to warm to room temperature with stirring. The solution was concentrated, solvents removed, and the resulting oil purified by chromatography on silica. The fractions containing the thiol were combined, the solvents removed to yield a white powder which was recrystallized from methanol/water and dried to yield 43.3 g of the desired product. NMR confirmed the identity of the product.

reactant | 3,5-bis(1,1-Dimethylethyl)-4-hydroxyphenyl thiocyanate | 0.209 mole, 55 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC#N | C15H21NOS
reactant | Water | 0.42 mole, 7.6 g | O | H2O
reactant | Triethylphosphine | 0.209 mole, 24.7 g | C(C)P(CC)CC | C6H15P
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 43.3 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
